US06995179B2
1) Synthesis of 3-(3-phenyl-2-propene-1-yl) 5-(2-cyanoethyl) 4-(3-chlorophenyl)-2-methyl-1,4-dihydropyridine-3,5-dicarboxylate:
655 mg (3.0 mmol) of cinnamyl acetoacetate, 0.34 ml (3.0 mmol) of 3-chlorobenzaldehyde and 0.0297 ml of piperidine were heated under reflux in 3.0 ml of benzene overnight while water was removed. The reaction liquid was washed with water and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was heated to 70° C. together with 370 mg (3.0 mmol) of (2-cyanoethyl) propiolate and 232 mg (3.0 mmol) of ammonium acetate under stirring in 3 ml of acetic acid for two nights. Acetic acid was evaporated under reduced pressure, and the residue was purified by the silica gel chromatography (hexane/ethyl acetate=3/2) to obtain the title compound.

reactant | cinnamyl acetoacetate | 3.0 mmol, 655 mg | C(CC(=O)C)(=O)OCC=CC1=CC=CC=C1 | C13H14O3
reactant | 3-chlorobenzaldehyde | 3.0 mmol, 0.34 ml | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | piperidine | 0.0297 ml | N1CCCCC1 | C5H11N
reactant | (2-cyanoethyl) propiolate | 3.0 mmol, 370 mg | C(C#C)(=O)OCCC#N | C6H5NO2
reactant | ammonium acetate | 3.0 mmol, 232 mg | C(C)(=O)[O-].[NH4+]
solvent | benzene | 3.0 ml | C1=CC=CC=C1 | C6H6
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3-(3-phenyl-2-propene-1-yl) 5-(2-cyanoethyl) 4-(3-chlorophenyl)-2-methyl-1,4-dihydropyridine-3,5-dicarboxylate | ClC=1C=C(C=CC1)C1C(=C(NC=C1C(=O)OCCC#N)C)C(=O)OCC=CC1=CC=CC=C1 | C26H23ClN2O4
